US06441097B1
(Tetradecylphenyl) tetradecylsulfonic acid was prepared according to procedures described in U.S. U.S. Pat. No. 6,043,391 from tetradecylbenzene and tetradecenylsulfonic acid.

reactant | tetradecylbenzene | C(CCCCCCCCCCCCC)C1=CC=CC=C1 | C20H34
reactant | tetradecenylsulfonic acid | C(=CCCCCCCCCCCCC)S(=O)(=O)O | C14H28O3S
product | (Tetradecylphenyl) tetradecylsulfonic acid | C(CCCCCCCCCCCCC)C1=C(C=CC=C1)CCCCCCCCCCCCCCS(=O)(=O)O | C34H62O3S
